US04329347
8-(4-Phenylsulfinyl-butoxy)-carbostyril
Prepared analogous to Example 88 from 8-(4-phenylmercapto-butoxy)-carbostyril by oxidation with hydrogen peroxide.

reactant | 8-(4-phenylmercapto-butoxy)-carbostyril | C1(=CC=CC=C1)SCCCCOC=1C=CC=C2C=CC(NC12)=O | C19H19NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 8-(4-Phenylsulfinyl-butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC=1C=CC=C2C=CC(NC12)=O | C19H19NO3S
